US05395824
Preparation of N-Acetyl-L-leucine-[1-(1,3-dioxolan-2-yl)]pentylamide
In 20 ml of benzene was dissolved 750 mg of N-acetyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 16-(c), and 1.8 ml of ethylene glycol and a catalytic amount of p-toluenesulfonic acid were added thereto. The mixture was heated at reflux for 3.5 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 650 mg of the titled compound as a colorless crystal.

reactant | N-acetyl-L-leucine-(1-formyl)pentylamide | 750 mg | C(=O)C(CCCC)NC([C@@H](NC(C)=O)CC(C)C)=O | C14H26N2O3
reactant | ethylene glycol | 1.8 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-Acetyl-L-leucine-[1-(1,3-dioxolan-2-yl)]pentylamide | 650 mg | O1C(OCC1)C(CCCC)NC([C@@H](NC(C)=O)CC(C)C)=O | C16H30N2O4
